US05563141
To a stirred suspension under argon of 4-acetylphenethylamine hydrochloride (1 g) in dichloromethane (20 ml) was added triethylamine (0.94 ml) and stirring continued for 15 minutes. The mixture was cooled to 4° C., then 4-methylphenylsulphonyl chloride (1.29 g) in dichloromethane (5 ml) added dropwise over 30 minutes. The reaction mixture was stirred for 18 hours at ambient temperature, then diluted with further dichloromethane (50 ml), washed with water, dried (MgSO4) and evaporated. Trituration of the residue gave N-(2-[4-acetylphenyl]ethyl)4-methylphenylsulphonamide, 1.58 g, as a yellow crystalline solid: m.p. 124°-126° C.; NMR(d6DMSO) δ7.84(2H,d), 7.63(3H,m), 7.37(2H,d), 7.29(2H,d), 2.98(2H,q), 2.75(2H,t), 2.55(3H,s), 2.39(3H,s); m/e 318(M+H)+.

reactant | 4-acetylphenethylamine hydrochloride | 1 g | Cl.C(C)(=O)C1=CC=C(CCN)C=C1
reactant | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylphenylsulphonyl chloride | 1.29 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-[4-acetylphenyl]ethyl)4-methylphenylsulphonamide | C(C)(=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)C | C17H19NO3S
